US08466114B2
To a stirred solution of 6-[2-chloro-5-((2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yl)-benzyl]-3,4-dihydro-2H-benzo[1,4]oxazine-2-carboxylic acid methyl ester (190 mg) in THF: Methanol:water (1:1:1 mixture, 1.5 mL) was added lithium hydroxide (17 mg). After stirring at room temperature overnight, the reaction mixture was concentrated, and the resulting residue was taken up in 50% methanol in ethyl acetate. The solution was filtered through a celite bed, and the filtrate was concentrated to a residue which was purified by preparative HPLC to furnish 6-[2-chloro-5-((2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yl)-benzyl]-3,4-dihydro-2H-benzo[1,4]oxazine-2-carboxylic acid (23 mg).

reactant | 6-[2-chloro-5-((2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yl)-benzyl]-3,4-dihydro-2H-benzo[1,4]oxazine-2-carboxylic acid methyl ester | 190 mg | COC(=O)C1OC2=C(NC1)C=C(C=C2)CC2=C(C=CC(=C2)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2O)O)O)CO)Cl | C23H26ClNO8
reactant | lithium hydroxide | 17 mg | [OH-].[Li+]
solvent | THF Methanol water | 1.5 mL | C1CCOC1.CO.O
product | 6-[2-chloro-5-((2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yl)-benzyl]-3,4-dihydro-2H-benzo[1,4]oxazine-2-carboxylic acid | 23 mg | ClC1=C(CC=2C=CC3=C(NCC(O3)C(=O)O)C2)C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO | C22H24ClNO8
